US07705042B2
d) 4-(1,1-Dioxo-hexahydro-1λ6-thiopyran-4-yl)-2-(4-methyl-piperidin-1-yl)-phenylamine
A mixture of 1-[5-(1,1-dioxo-1,2,3,6-tetrahydro-1λ6-thiopyran-4-yl)-2-nitro-phenyl]-4-methyl-piperidine (as prepared in the previous step, 65 mg, 0.19 mmol) and 10% Pd/C (40 mg) in 3 mL of MeOH was stirred at RT under H2 (balloon pressure) for 1 h. The Pd catalyst was removed by filtration on Celite and the filtrate was concentrated to give a white solid. Flash chromatography of the compound on silica gel (5% EtOAc/DCM) gave 42 mg (70%) of the title compound as a white solid: 1H-NMR (CDCl3; 400 MHz): δ 6.82 (s, 1H), 6.76 (d, 1H, J=8.2 Hz), 6.68 (d, 1H, J=8.2 Hz), 3.91 (s, 2H), 3.05-3.16 (m, 6H), 2.67 (dddd, 2H, J=12.0, 12.0, 3.2, 3.2 Hz), 2.57 (dd, 2H, J=11.6, 11.6 Hz), 2.36 (m, 2H), 2.14-2.23 (m, 2H), 1.71-1.79 (m, 2H), 1.51 (m, 1H), 1.24-1.40 (m, 2H), 0.99 (d, 3H, J=6.6 Hz). Mass spectrum (ESI, m/z): Calcd. for C17H26N2O2S, 323.2 (M+H), found 323.2.

reactant | 1-[5-(1,1-dioxo-1,2,3,6-tetrahydro-1λ6-thiopyran-4-yl)-2-nitro-phenyl]-4-methyl-piperidine | O=S1(CCC(=CC1)C=1C=CC(=C(C1)N1CCC(CC1)C)[N+](=O)[O-])=O | C17H22N2O4S
solvent | MeOH | 3 mL | CO | CH4O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 4-(1,1-Dioxo-hexahydro-1λ6-thiopyran-4-yl)-2-(4-methyl-piperidin-1-yl)-phenylamine | 42 mg, 70% | O=S1(CCC(CC1)C1=CC(=C(C=C1)N)N1CCC(CC1)C)=O | C17H26N2O2S
